US05814653
6-benzyloxy-3-(2-(1-isopropyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 0.698 gm (2.39 mMol) 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole and 0.787 gm (3.39 mMol) 2-(1-isopropyl-1H-pyrazol-4-yl)-1-mesyloxyethane, 0.649 gm (63.4%) of the desired compound were prepared by the procedure described in detail in Example 72.

reactant | 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole | 2.39 mMol, 0.698 gm | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)N | C19H20N2O
reactant | 2-(1-isopropyl-1H-pyrazol-4-yl)-1-mesyloxyethane | 3.39 mMol, 0.787 gm | C(C)(C)N1N=CC(=C1)CCOS(=O)(=O)C | C9H16N2O3S
product | 6-benzyloxy-3-(2-(1-isopropyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.649 gm, 63.4% | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)NCCC=1C=NN(C1)C(C)C | C27H32N4O
